US06995144B2
1-[2-(6-tert-Butoxypyridin-2-yl)ethyl]-4-(2-fluorophenoxymethyl)piperidin-4-ol
After dissolving 400 mg of 2-tert-butoxy-6-vinylpyridine and 601 mg of 4-(2-fluorophenoxymethyl)-4-hydroxypiperidine hydrochloride in 5 ml of N,N-dimethylformamide, 0.44 ml of N,N-diisopropylethylamine was added and the mixture was stirred for 24 hours at 100° C. Water was added to the reaction solution and extraction was performed with ethyl acetate. The organic layer was washed with water and saturated brine in that order and dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure. The residue was purified by NH silica gel column chromatography (solvent: n-hexane/ethyl acetate) to obtain the title compound (18 mg, 2% yield).

reactant | 2-tert-butoxy-6-vinylpyridine | 400 mg | C(C)(C)(C)OC1=NC(=CC=C1)C=C | C11H15NO
reactant | 4-(2-fluorophenoxymethyl)-4-hydroxypiperidine hydrochloride | 601 mg | Cl.FC1=C(OCC2(CCNCC2)O)C=CC=C1
reactant | Water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | N,N-diisopropylethylamine | 0.44 ml | C(C)(C)N(C(C)C)CC | C8H19N
product | 1-[2-(6-tert-Butoxypyridin-2-yl)ethyl]-4-(2-fluorophenoxymethyl)piperidin-4-ol | 18 mg, 2% yield | C(C)(C)(C)OC1=CC=CC(=N1)CCN1CCC(CC1)(O)COC1=C(C=CC=C1)F | C23H31FN2O3
